US04521418
2-Guanidino-4-chloromethylthiazole hydrochloride is reacted with 2-(2-mercaptoethylamino)-5-(6-methyl-3-pyridylmethyl)-4-pyrimidone and sodium ethoxide in ethanol to give 2-[2-(2-guanidino-4-thiazolylmethylthio)ethylamino]-5-(6-methyl-3-pyridylmethyl)-4-pyrimidone.

reactant | 2-Guanidino-4-chloromethylthiazole hydrochloride | Cl.N(C(=N)N)C=1SC=C(N1)CCl
reactant | 2-(2-mercaptoethylamino)-5-(6-methyl-3-pyridylmethyl)-4-pyrimidone | SCCNC1=NC=C(C(N1)=O)CC=1C=NC(=CC1)C | C13H16N4OS
reactant | sodium ethoxide | [O-]CC.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-[2-(2-guanidino-4-thiazolylmethylthio)ethylamino]-5-(6-methyl-3-pyridylmethyl)-4-pyrimidone | N(C(=N)N)C=1SC=C(N1)CSCCNC1=NC=C(C(N1)=O)CC=1C=NC(=CC1)C | C18H22N8OS2
